US05128355
To a suspension of 11.0 g of glycine ethyl ester hydrochloride in 100 mL of dimethylformamide at 25° was added 22.0 mL of triethylamine. To the resulting milky suspension was added 9.08 g of 4-benzyloxybenzyl chloride in 50 mL of DMF dropwise over 0.5 hour. The mixture was stirred for 16 hours at 25°. The reaction mixture was diluted with diethyl ether and then filtered to remove the precipitated triethylamine hydrochloride. The resulting solution was concentrated in vacuo, and the residue was dissolved in ethyl acetate. The solution was washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Kugelrohr distillation provided 5.90 g of N-(4-benzyloxybenzyl)glycine ethyl ester [bp 160°-180° (0.015 torr.)]; NMR (200 MHz, CDCl3): δ 7.43-7.27 (m, 5H); 7.06 (A2B2, 4H); 5.01 (s, 2H); 4.14 (quart., 2H); 3.71 (s, 2H); 3.36 (s, 3H); 2.01 (bs, 1h); 1.24 (t, 3H).

reactant | glycine ethyl ester hydrochloride | 11.0 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 22.0 mL | C(C)N(CC)CC | C6H15N
reactant | 4-benzyloxybenzyl chloride | 9.08 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(4-benzyloxybenzyl)glycine ethyl ester | 5.90 g | C(C)OC(CNCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C18H21NO3
